US06794395B1
(54) 3-(Z)-{1-[4-(N-dimethylaminomethylcarbonyl-N-methyl-amino)-anilino]-1-phenyl-methylidene}-6-trifluoromethyl-2-indolinone
Prepared from 1-acetyl-3-(1-chloro-1-phenyl-methylidene)-6-trifluoromethyl-2-indolinone and N-(dimethylaminomethylcarbonyl)-N-methyl-p-phenylenediamine

reactant | 1-acetyl-3-(1-chloro-1-phenyl-methylidene)-6-trifluoromethyl-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)C(F)(F)F)=C(C1=CC=CC=C1)Cl)=O | C18H11ClF3NO2
reactant | N-(dimethylaminomethylcarbonyl)-N-methyl-p-phenylenediamine | CN(C)CC(=O)N(C1=CC=C(C=C1)N)C | C11H17N3O
product | 3-(Z)-{1-[4-(N-dimethylaminomethylcarbonyl-N-methyl-amino)-anilino]-1-phenyl-methylidene}-6-trifluoromethyl-2-indolinone | CN(C)CC(=O)N(C)C1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(F)(F)F)=O)C=C1 | C27H25F3N4O2
